### PR TITLE
[Merged by Bors] - feat(Order/WellQuasiOrder): `WellQuasiOrdered` if onto homomorphous from a `WellQuasiOrdered` relation

### PR DESCRIPTION
**Pull request by Hagb**
It is used in #39788 for proof of well foundedness of `MonomialOrder` when the index type is finite.

The hypotheses can be further weaken once #38557 is merged.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/WellQuasiOrder.lean [hunk 1]
```diff
@@ -113,6 +113,13 @@ theorem RelIso.wellQuasiOrdered_iff {α β} {r : α → α → Prop} {s : β →
   congr! with g a b
   simp [f.map_rel_iff]
 
+theorem RelHom.wellQuasiOrdered_of_wellQuasiOrdered_of_surjective {α β} {r : α → α → Prop}
```
Comment (plp127) [inline Mathlib/Order/WellQuasiOrder.lean]: Can we call this `WellQuasiOrdered.of_surjective`? The current name is long, and I believe this is descriptive enough.
```suggestion
theorem WellQuasiOrdered.of_surjective {α β} {r : α → α → Prop}
```

Comment (Hagb) [reply Mathlib/Order/WellQuasiOrder.lean]: Thanks! It makes sense. Since it requires `r →r s` (`RelHom r s`), how about `RelHom.wellQuasiOrdered_of_surjective` so that it will not be too long, but still indicate `RelHom`? (And similarly for the other two lemmas.)

Comment (Vierkantor) [reply Mathlib/Order/WellQuasiOrder.lean]: I'm more inclined to go with Aaron's suggestion and say that the `RelHom` can be left implicit. For example we have the same for finite modules, where linearity is implicit: [`Module.Finite.of_surjective`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Finiteness/Basic.html#Module.Finite.of_surjective). I'd only add `RelHom` to the name if there's a big chance of collisions with another type (but I can't think of which type that would be).

Another option is to call this `Function.Surjective.wellQuasiOrdered`, like [`Function.Surjective.group`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/InjSurj.html#Function.Surjective.group). (Those seem to be for `Type`-valued classes, not `Prop`s though.)

File: Mathlib/Order/WellQuasiOrder.lean [hunk 2]
```diff
@@ -113,6 +113,13 @@ theorem RelIso.wellQuasiOrdered_iff {α β} {r : α → α → Prop} {s : β →
...
+    {s : β → β → Prop} (h : WellQuasiOrdered r) (f : r →r s) (hf : Function.Surjective f) :
+    WellQuasiOrdered s := by
+  intro seq
+  have ⟨_, _, hmn⟩ := h (Function.surjInv hf ∘ seq)
+  exact ⟨_, _, hmn.1, by simpa [Function.surjInv_eq] using f.map_rel hmn.2⟩
```
Comment (Vierkantor) [inline Mathlib/Order/WellQuasiOrder.lean]: Here we might as well split `hmn` as well, to get rid of the `.1` `.2`:
```suggestion
  have ⟨_, _, hle, hr⟩ := h (Function.surjInv hf ∘ seq)
  exact ⟨_, _, hle, by simpa [Function.surjInv_eq] using f.map_rel hr⟩
```

File: Mathlib/Order/WellQuasiOrder.lean (hunk 1 above)
Comment (Hagb) [reply Mathlib/Order/WellQuasiOrder.lean]: Makes sense. Thank you all!

**Comment by Hagb** [comment]
-awaiting-author

File: Mathlib/Order/WellQuasiOrder.lean [hunk 3]
```diff
@@ -178,6 +185,15 @@ theorem wellQuasiOrderedLE_iff :
...
   ⟨wellQuasiOrdered_le.prod wellQuasiOrdered_le⟩
 
+theorem Monotone.wellQuasiOrderedLE_of_wellQuasiOrderedLE_of_surjective [Preorder β]
+    [WellQuasiOrderedLE α] {f : α → β} (mono : Monotone f) (hf : Function.Surjective f) :
+    WellQuasiOrderedLE β :=
+  ⟨wellQuasiOrdered_le.of_surjective ⟨_, (mono ·)⟩ hf⟩
+
+theorem OrderHom.wellQuasiOrderedLE_of_wellQuasiOrderedLE_of_surjective [Preorder β]
+    [WellQuasiOrderedLE α] (f : α →o β) (hf : Function.Surjective f) :
+    WellQuasiOrderedLE β := f.monotone.wellQuasiOrderedLE_of_wellQuasiOrderedLE_of_surjective hf
```
Comment (Vierkantor) [inline Mathlib/Order/WellQuasiOrder.lean]: For readability, let's put complicated proofs on their own line. (Simple proofs, like for example ` := rfl`, would be fine here.)
```suggestion
    WellQuasiOrderedLE β :=
  f.monotone.wellQuasiOrderedLE_of_wellQuasiOrderedLE_of_surjective hf
```

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Order/WellQuasiOrder.lean (hunk 3 above)
Comment (Hagb) [reply Mathlib/Order/WellQuasiOrder.lean]: Thanks!
